US09259470B2
(E)-Ethyl 3-(4-chloro-3-fluorophenyl)acrylate (18.3 g, 80.0 mmol) was combined with toluene (200 mL) and cooled to −78° C. Diisobutylaluminium hydride (“DIBAL-H”) (100 g, 176 mmol) (25% in toluene) was then added over one hour. The reaction was then allowed to agitate and warm up to ambient temperature over 2 hours. After agitating for an additional hour, the reaction was quenched with ice (200 g), and 6M HCl (100 mL) was added slowly. The aqueous layer was separated and extracted once with ethyl acetate. The combined organics were washed with brine, dried and evaporated to give a waxy solid, which was triturated with hexanes to give (E)-3-(4-chloro-3-fluorophenyl)prop-2-en-1-ol (14.0 g, 75.0 mmol, 93.7% yield) as a solid.

reactant | (E)-Ethyl 3-(4-chloro-3-fluorophenyl)acrylate | 80.0 mmol, 18.3 g | ClC1=C(C=C(C=C1)/C=C/C(=O)OCC)F | C11H10ClFO2
reactant | Diisobutylaluminium hydride | 176 mmol, 100 g | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(4-chloro-3-fluorophenyl)prop-2-en-1-ol | 75.0 mmol, 14.0 g, 93.7% yield | ClC1=C(C=C(C=C1)/C=C/CO)F | C9H8ClFO
